US08461328B2
To a mixture of β-alanine ethyl ester hydrochloride (2.69 g, 17.5 mmol), benzaldehyde (1.68 mL, 16.6 mmol) and sodium sulfate in DCM (30 mL) was added diisopropylethylamine (3.35 mL, 19.3 mmol) and the resulting mixture stirred at ambient temperature for 4 hours. The reaction mixture was filtered and the filtrate concentrated under vacuum to a clear oil. The oil was re-dissolved in methanol (30 mL) and cooled to 0° C., and then sodium borohydride (662 mg, 17.5 mmol) was added. The resulting mixture was warmed to ambient temperature and stirred for 16 hours. The reaction mixture was concentrated under vacuum and the resulting residue dissolved in DCM and washed with 10% aqueous citric acid, then dried over sodium sulfate and concentrated under vacuum to afford 2.45 g (71%) of 3-benzylamino-propionic acid ethyl ester as a clear oil. LCMS (Method I, ESI): RT=1.49 and 0.31 min, m+H=208.3; 1H NMR (400 MHz, CDCl3) δ: 7.32 (s, 3H), 7.25 (m, 2H), 4.14 (q, 2H), 3.68 (s, 2H), 2.90 (t, 2H), 2.55 (m, 2H), 1.25 (t, 3H).

reactant | β-alanine ethyl ester hydrochloride | 17.5 mmol, 2.69 g | Cl.C(C)OC(CCN)=O
reactant | benzaldehyde | 16.6 mmol, 1.68 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | diisopropylethylamine | 19.3 mmol, 3.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium borohydride | 17.5 mmol, 662 mg | [BH4-].[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-benzylamino-propionic acid ethyl ester | 2.45 g, 71% | C(C)OC(CCNCC1=CC=CC=C1)=O | C12H17NO2
